US05703089
A mixture of 1.6 g (6 mmol) of anthracene-1,9-dicarboxylic anhydride in 40 ml of toluene was treated with 0.5 g (3 mmol) of N,N'-bis(2-aminoethyl)-1,3-propanediamine dissolved in 10 ml of toluene. The mixture was refluxed for 4 h and then filtered. The solution was allowed to cool and the solid formed was filtered, washed, dried and recrystallized from toluene. 0.93 g (50%) of N,N'-bis[2-(1,2-dihydro-1,3-dioxo-3H-dibenz[de,h]isoquinolin-2-yl)ethyl]-1,3-propanediamine were obtained. M.p. 191° C. (toluene). 1 H-NMR (CDCl3) δ=1.84 (q, 2H, J=6 Hz, --CH2 --); 2.74 (broad, s, 2H, NH); 2.89 (t, 4H, J=6 Hz, CH2); 3.02 (t, 4H, J=6 Hz, CH2); 4.31 (t,4H, J=6 Hz, CH2); 7.54 (m, 4H, H-5 and H-9); 7.73 (m, 2H,H-10); 7.89 (d, 2H, J=8 Hz, H-8); 8.22 (d, 1H, J=8 Hz, H-4); 8.51 (s,2H, H-7); 8.57 (d, 2H, J=8 Hz, H-6); 9.78 (d,2H, J=8 Hz, H-11) p.p.m.. Anal. Calculated for C39H32N4O4 : C 75.46; H 5.19; N 9.02. Found: C 75.14; H 5.37; N 8.78. Acetate m.p. 155° C. Methanesulfonate m.p. 243° C.

reactant | anthracene-1,9-dicarboxylic anhydride | 6 mmol, 1.6 g | C12=CC=CC3=CC4=CC=CC=C4C(=C13)C(=O)OC2=O | C16H8O3
reactant | N,N'-bis(2-aminoethyl)-1,3-propanediamine | 3 mmol, 0.5 g | NCCNCCCNCCN | C7H20N4
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N,N'-bis[2-(1,2-dihydro-1,3-dioxo-3H-dibenz[de,h]isoquinolin-2-yl)ethyl]-1,3-propanediamine | 0.93 g, 50% | O=C1N(C(C2=C3C(C=C4C(=C13)C=CC=C4)=CC=C2)=O)CCNCCCNCCN2C(C4=C1C(=CC=3C4=C(C2=O)C=CC3)C=CC=C1)=O | C39H32N4O4
